US05258529
49.93 Grams of 2,3-dibromo-1-propene were added dropwise to a mixture of 20.00 g of phenylacetaldehyde, 40 g of toluene, 60 g of 0.01% hydrochloric acid and 16.33 g of zinc powder at 30° C., and the mixture was allowed to react at the same temperature for 3 hours. After the reaction was completed zinc-derived insolubles were filtered off, and the resultant filtrate was separated. The organic phase was washed with a 7% sodium carbonate aqueous solution, and the toluene was distilled off under reduced pressure. The resultant oily substance was purified by silica gel column chromatography to give 24.01 g of 2-bromo-5-phenyl-1-penten-4-ol; nD25 =1.536, FI-MS m/e 240(M+), 242(M+2+).

reactant | 2,3-dibromo-1-propene | BrC(=C)CBr | C3H4Br2
reactant | phenylacetaldehyde | 20.00 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | hydrochloric acid | 60 g | Cl | ClH
catalyst | zinc | 16.33 g | [Zn] | Zn
solvent | toluene | 40 g | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-5-phenyl-1-penten-4-ol | 24.01 g | BrC(=C)CC(CC1=CC=CC=C1)O | C11H13BrO
